US05356562
A mixture of 0.1 mol of 4-pentyl-2-fluoro-iodobenzene, 0.12 mol of trimethylsilylacetylene, 0.0014 mol of bis(triphenylphosphine)-palladium(II) chloride Pd(PPh3)2Cl2 and 0.7 mmol of copper (I) iodide in 250 ml diethylamine is stirred at room temperature for 20 hours. After evaporation of the solvent the crude product is purified by chromatography on alumina (4:1 petrol/difluoromethane) to give 2-(4-pentylphenyl)-1-trimethylsilylacetylene. Removal of the trimethylsilylgroup is accomplished by treatment this acetylene in methanol with 1M KOH for 1 hour at room temperature. Evaporation of the methanol and either extraction yields 4-pentyl-2-fluoro-phenylacetylene.

reactant | 4-pentyl-2-fluoro-iodobenzene | 0.1 mol | C(CCCC)C1=CC(=C(C=C1)I)F | C11H14FI
reactant | trimethylsilylacetylene | 0.12 mol | C[Si](C)(C)C#C | C5H10Si
solvent | diethylamine | 250 ml | C(C)NCC | C4H11N
catalyst | copper (I) iodide | 0.7 mmol | [Cu]I
product | 2-(4-pentylphenyl)-1-trimethylsilylacetylene | C(CCCC)C1=CC=C(C=C1)C#C[Si](C)(C)C | C16H24Si
